US06297239B1
Preparation of 2-(3-Chloro-phenoxy)-4-[1-(4-chloro-phenyl)-2-hydroxy-1-imidazol-1-yl-ethyl]-benzonitrile Hydrochloride
To a solution of 2-(3-chloro-phenoxy)-4-[(4-chloro-phenyl)-imidazol-1-yl-methyl]-benzonitrile trifluoroacetate (0.065 g, 0.122 mmol) in acetonitrile (5 mL) was added 1M KOH (0.5 mL) (pH=9-10) and 37% aqueous formaldehyde (0.14 mL) After stirring for 18 hr the mixture was adjusted to pH=3 with acetic acid, diluted with CH3OH (3 mL) and purified on prep HPLC. The TFA salt was converted to the HCl salt to obtain the title compound.

reactant | 2-(3-chloro-phenoxy)-4-[(4-chloro-phenyl)-imidazol-1-yl-methyl]-benzonitrile trifluoroacetate | 0.122 mmol, 0.065 g | FC(C(=O)O)(F)F.ClC=1C=C(OC2=C(C#N)C=CC(=C2)C(N2C=NC=C2)C2=CC=C(C=C2)Cl)C=CC1
reactant | KOH | 1M, 0.5 mL, pH=9-10 | [OH-].[K+]
reactant | formaldehyde | 0.14 mL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | CH3OH | 3 mL | CO | CH4O
product | 2-(3-Chloro-phenoxy)-4-[1-(4-chloro-phenyl)-2-hydroxy-1-imidazol-1-yl-ethyl]-benzonitrile Hydrochloride | Cl.ClC=1C=C(OC2=C(C#N)C=CC(=C2)C(CO)(N2C=NC=C2)C2=CC=C(C=C2)Cl)C=CC1 | InChI=1S/C24H17Cl2N3O2.ClH/c25-20-8-6-18(7-9-20)24(15-30,29-11-10-28-16-29)19-5-4-17(14-27)23(12-19)31-22-3-1-2-21(26)13-22;/h1-13,16,30H,15H2;1H
